US04711887
An intimate mixture of 1-phenoxy-3-β-aminoethylamino-2-propanol (4.2 g.) and ethyl 4-mercaptophthalazine-4-carboxylate (2.3 g.) is heated at 95° C. for 1 hour, cooled, powdered and stirred with a mixture of aqueous 2N-hydrochloric acid and ether. The mixture is filtered and there is thus obtained as solid residue 1-phenoxy-3-β-(4-mercaptophthalazine-1-carboxamido)ethylamino-2-propanol hydrochloride, m.p. 232°-236° C., which is used without further purification.

reactant | 1-phenoxy-3-β-aminoethylamino-2-propanol | 4.2 g | O(C1=CC=CC=C1)CC(CNCCN)O | C11H18N2O2
reactant | ethyl 4-mercaptophthalazine-4-carboxylate | 2.3 g | SC1(NN=CC2=CC=CC=C12)C(=O)OCC | C11H12N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | 1-phenoxy-3-β-(4-mercaptophthalazine-1-carboxamido)ethylamino-2-propanol hydrochloride | Cl.O(C1=CC=CC=C1)CC(CNCCNC(=O)C1=NN=C(C2=CC=CC=C12)S)O | InChI=1S/C20H22N4O3S.ClH/c25-14(13-27-15-6-2-1-3-7-15)12-21-10-11-22-19(26)18-16-8-4-5-9-17(16)20(28)24-23-18;/h1-9,14,21,25H,10-13H2,(H,22,26)(H,24,28);1H
